US20010036946A1
3,5-dibromo-N-[[[2-(3-methoxyphenyl)ethyl]amino]carbonyl]-D-tyrosine
A mixture of 24 g (46.3 mmol) of methyl 3,5-dibromo-N-[[[2-(3-methoxyphenyl) ethyl]amino]carbonyl]-D-tyrosine and 5.0 g (50 mmol) of lithium hydroxide in 200 ml of water was stirred for 1 hour at 60 C. The solid product was suction filtered and the filtrate was washed with 200 ml of ethyl acetate. By the addition of 1 M aqueous hydrochloric acid the aqueous phase was adjusted to a pH of 3-4 and extracted 3 times with 150 ml of ethyl acetate. The combined ethyl acetate phases were washed once with water, dried over sodium sulphate and evaporated down in vacuo. The residue was triturated with ether. 9.1 g (38% of theory) of a colourless solid were obtained. IR (KBr): 1719 cm−1 (C═O) Rf: 0.57 (ethyl acetate/methanol/glacial acetic acid =9.5/0.5/0.2 (v/v/v))

reactant | methyl 3,5-dibromo-N-[[[2-(3-methoxyphenyl) ethyl]amino]carbonyl]-D-tyrosine | 46.3 mmol, 24 g | CN([C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)O)C(=O)NCCC1=CC(=CC=C1)OC | C20H22Br2N2O5
reactant | lithium hydroxide | 50 mmol, 5.0 g | [OH-].[Li+]
reactant | KBr | [K+].[Br-]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | water | 200 ml | O | H2O
product | 3,5-dibromo-N-[[[2-(3-methoxyphenyl)ethyl]amino]carbonyl]-D-tyrosine | BrC=1C=C(C[C@@H](NC(=O)NCCC2=CC(=CC=C2)OC)C(=O)O)C=C(C1O)Br | C19H20Br2N2O5
